US05169769
Step 1: Preparation of 5-ethyl-6-methyl-3-nitro-2(1H)-pyridinone
A mixture of 2-ethyl-3-oxobutanal, sodium salt (7.5 g, 55 mmol), nitroacetamide (6.6 g, 63 mmol), aqueous piperidinium acetate (4.4 mL) [prepared from glacial acetic acid (42 mL), water (100 mL) and piperidine (72 mL)] in water (45 mL) was stirred at room temperature for 22 hours. The yellow precipitate was collected by filtration and air dried to yield 5-ethyl-6-methyl-3-nitro-2-(1H)-pyidinone.

reactant | 2-ethyl-3-oxobutanal | C(C)C(C=O)C(C)=O | C6H10O2
reactant | sodium | 55 mmol, 7.5 g | [Na] | Na
reactant | nitroacetamide | 63 mmol, 6.6 g | [N+](=O)([O-])CC(=O)N | C2H4N2O3
reactant | piperidinium acetate | 4.4 mL | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | water | 45 mL | O | H2O
product | 5-ethyl-6-methyl-3-nitro-2(1H)-pyridinone | C(C)C=1C=C(C(NC1C)=O)[N+](=O)[O-] | C8H10N2O3
